US07687664B2
t-Butyl N-[2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]carbamate
10.8 g of t-butyl N-[2-benzyloxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) benzyl]carbamate was dissolved in 300 ml of ethanol, 2 g of 10% palladium-carbon was added thereto, and the mixture was stirred overnight at room temperature in a hydrogen atmosphere. The reaction mixture was filtered through Celite, and the filtrate was concentrated to give 8.2 g of the title compound.

reactant | t-butyl N-[2-benzyloxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl) benzyl]carbamate | 10.8 g | C(C1=CC=CC=C1)OC1=C(CNC(OC(C)(C)C)=O)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C25H34BNO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 2 g | [C].[Pd]
product | t-Butyl N-[2-hydroxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyl]carbamate | 8.2 g | OC1=C(CNC(OC(C)(C)C)=O)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H28BNO5
